US05382675
At 65°, 3.20 g (80 mmol) of 60% sodium hydride in oil (Fluka, pract.) are added to a solution of 2.042 g (1.902 ml, d=1.074; 20.0 mmol) of tetrahydro-2H-pyran-4-ol (Fluka, pract.) in 70 ml of absolute 1,4-dioxane. The resulting grey suspension is stirred for 3 hours under reflux, is allowed to cool to 65° again and then a solution of 1.89 g (20.0 mmol) of chloroacetic acid (Fluka, puriss.) in 40 ml of absolute 1,4-dioxane is added dropwise over a period of 20 minutes. The resulting grey-brown suspension is then heated to reflux again and stirred for 3 hours at that temperature. After stirring for a further 16 hours at room temperature, 10 ml of water are added dropwise over a period of 5 minutes and the resulting yellowish suspension is concentrated to dryness by evaporation under a high vacuum. The residue is taken up in 20 ml of water and the aqueous solution is extracted twice with 20 ml of ethyl acetate each time. The ethyl acetate extracts are then washed once with 10 ml of water. The aqueous phases are combined and then acidified with 4N hydrochloric acid (pH 1). The resulting solution is saturated with sodium chloride and extracted twice with 50 ml of ethyl acetate each time. The ethyl acetate phases are then washed twice with 20 ml of saturated sodium chloride solution each time. All the ethyl acetate extracts are subsequently combined, dried over magnesium sulfate, filtered and concentrated to dryness by evaporation under a high vacuum at 30°. The residue (yellow oil) is purified by bulb tube distillation (b.p. approximately 130° at 0.4 mm Hg) to give O-(tetrahydropyran-4-yl)-glycolic acid in the form of a colourless oil which, on being left to stand, solidifies to colourless crystals which melt at from 63.9° to 70.6° (sintering from 60.2°) and contain 0.08 mol (0.91%) of water.

reactant | sodium hydride | 80 mmol, 3.20 g | [H-].[Na+]
reactant | tetrahydro-2H-pyran-4-ol | 20.0 mmol, 1.902 ml, 2.042 g | O1CCC(CC1)O | C5H10O2
reactant | chloroacetic acid | 20.0 mmol, 1.89 g | ClCC(=O)O | C2H3ClO2
reactant | water | 10 ml | O | H2O
solvent | 1,4-dioxane | 70 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | O-(tetrahydropyran-4-yl)-glycolic acid | O1CCC(CC1)OC(CO)=O | C7H12O4
